US04452795
A mixture of 64,4 g (0.35 mole) of p-benzylphenol, 500 ml of xylene and 28 g (0,45 mole) of pulverised potassium hydroxide is heated for 4 hours under reflux. The water formed is removed from the reaction mixture. Then 60 g (0,3 mole) of 4-bromo-2,6-dimethylaniline and 1 g of CuCl are added and the xylene is distilled off under nitrogen until the temperature in the reaction mixture is 160°-170°. The reaction mixture is stirred at this temperature for 12 hours, allowed to cool to 70°-80° C., and then taken up in 500 ml of toluene and filtered. The filtrate is diluted with diethyl ether, washed twice with 10% potassium hydroxide solution and three times with saturated sodium chloride solution, dried over sodium sulfate and concentrated. The residue is purified over a column of silica gel with a 1:3 mixture of ethyl acetate/hexane as eluant. The eluant is evaporated off to give 4-(p-benzylphenoxy)-2,6-dimethylaniline as a dark liquid which after a time forms crystals with a melting point of 61°-63° C.

reactant | p-benzylphenol | 0.35 mole, 64,4 g | C(C1=CC=CC=C1)C1=CC=C(C=C1)O | C13H12O
reactant | xylene | 500 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | potassium hydroxide | 0,45 mole, 28 g | [OH-].[K+]
reactant | 4-bromo-2,6-dimethylaniline | 0,3 mole, 60 g | BrC1=CC(=C(N)C(=C1)C)C | C8H10BrN
catalyst | CuCl | 1 g | Cl[Cu]
solvent | water | O | H2O
product | 4-(p-benzylphenoxy)-2,6-dimethylaniline | C(C1=CC=CC=C1)C1=CC=C(OC2=CC(=C(N)C(=C2)C)C)C=C1 | C21H21NO
